US08053440B2
Alternatively, 2-(4-(2-hydroxyethoxy)-3,5-dimethylphenyl)-5,7-dimethoxyquinazolin-4(3H)-one can be synthesized by the following method. In a 2 L dry round-bottom flask with a reflux condenser and magnetic stirrer was placed 3,5-dimethyl-4-hydroxy benzaldehyde (26.9 g, 0.179 mol) in ethanol (350 mL). 2-chloroethanol (87.6 g, 1.074 mol) and K2CO3 (99 g, 0.716 mol) were added and the reaction mixture was heated to reflux for 24 h. The reaction mixture was cooled to room temperature and filtered. The solvent was removed under reduced pressure. The crude product was diluted with ethyl acetate and the organic layer was washed with water, brine, and dried over Na2SO4. Upon removal of solvent it gave 45 g of crude product. The crude product was purified by column chromatography (silica gel 230-400 mesh; 50% ethyl acetate in hexane as eluent) to give 33.3 g (95%) of product. To a solution of 2-amino-4,6-dimethoxy-benzamide (33.45 g, 0.170 mol) and 4-(2-hydroxy ethoxy)-3,5-dimethyl benzaldehyde (33.3 g, 0.170 mol) in N,N-dimethyl acetamide (300 mL), NaHSO3 (33.3 g, 0.187 mol) and p-TSA (3.2 g, 17.1 mmol) were added and the reaction mixture was heated at 150° C. for 14 h. The reaction was cooled to room temperature. The solvent was removed under reduced pressure. The residue was diluted with water and stirred for 30 min at room temperature. The solids separated were filtered and dried to give crude product. The crude product was purified by column chromatography (silica gel 230-400 mesh; 5% methanol in CH2Cl2 as eluent) to give 2-(4-(2-hydroxyethoxy)-3,5-dimethylphenyl)-5,7-dimethoxyquinazolin-4(3H)-one (33 g, 52%).

reactant | 2-amino-4,6-dimethoxy-benzamide | 0.170 mol, 33.45 g | NC1=C(C(=O)N)C(=CC(=C1)OC)OC | C9H12N2O3
reactant | 4-(2-hydroxy ethoxy)-3,5-dimethyl benzaldehyde | 0.170 mol, 33.3 g | OCCOC1=C(C=C(C=O)C=C1C)C | C11H14O3
reactant | NaHSO3 | 0.187 mol, 33.3 g | OS(=O)[O-].[Na+]
reactant | p-TSA | 17.1 mmol, 3.2 g | CC=1C=CC(=CC1)S(=O)(=O)O | C7H8O3S
solvent | N,N-dimethyl acetamide | 300 mL | CN(C(C)=O)C | C4H9NO
product | 2-(4-(2-hydroxyethoxy)-3,5-dimethylphenyl)-5,7-dimethoxyquinazolin-4(3H)-one | 33 g, 52% | OCCOC1=C(C=C(C=C1C)C1=NC2=CC(=CC(=C2C(N1)=O)OC)OC)C | C20H22N2O5
